US07932272B2
6Amino-thieno[2,3-b]pyridine-5-carboxylic Acid
6-Amino-thieno[2,3-b]pyridine-5-carbonitrile described in Preparation Example T-5 (104 mg, 0.594 mmol) was dissolved in a mixture solution of water (1.5 mL) and sulfuric acid (1.5 mL), and the solution was stirred for 3 hours under reflux. An aqueous solution of 5N sodium hydroxide was added to the reaction solution at 0° C., to neutralize the solution. The precipitated solid was filtered, and title compound (65 mg, 0.33 mmol, 56%) was obtained as a pale yellow solid.

reactant | 6-Amino-thieno[2,3-b]pyridine-5-carbonitrile | NC1=C(C=C2C(=N1)SC=C2)C#N | C8H5N3S
reactant | sodium hydroxide | 5N | [OH-].[Na+]
reactant | water | 1.5 mL | O | H2O
solvent | sulfuric acid | 1.5 mL | S(O)(O)(=O)=O | H2O4S
product | 6Amino-thieno[2,3-b]pyridine-5-carboxylic Acid | 0.33 mmol, 65 mg, 56% | NC1=C(C=C2C(=N1)SC=C2)C(=O)O | C8H6N2O2S
